US07642264B2
4-(4-Chloro-phenyl)-2-(2-chloro-pyridin-4-yl)-6-methyl-pyrimidine
The title compound was prepared from 2-chloro-4-(4-chloro-phenyl)-6-methyl-pyrimidine (example A.11) (0.24 g, 1.0 mmol) and commercially available 2-chloro-pyridine-4-boronic acid (0.21 g, 1.3 mmol) according to the general procedure IVb. Obtained as a light yellow solid (0.23 g, 73%). MS (ISP) 316.1 [(M+H)+]; mp 175° C.

reactant | 2-chloro-4-(4-chloro-phenyl)-6-methyl-pyrimidine | 1.0 mmol, 0.24 g | ClC1=NC(=CC(=N1)C1=CC=C(C=C1)Cl)C | C11H8Cl2N2
reactant | 2-chloro-pyridine-4-boronic acid | 1.3 mmol, 0.21 g | ClC1=NC=CC(=C1)B(O)O | C5H5BClNO2
product | 4-(4-Chloro-phenyl)-2-(2-chloro-pyridin-4-yl)-6-methyl-pyrimidine | ClC1=CC=C(C=C1)C1=NC(=NC(=C1)C)C1=CC(=NC=C1)Cl | C16H11Cl2N3
